*****************************************************************
* NXP BUK7Y14-80E
*
* Polarity N-Channel
* Ratings 80V/1.400000E-002OHMS/64.6911192408538A
*
* Date Created Mon Feb 04 07:42:24 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK7Y14-80E DRAIN GATE SOURCE

LD DRAIN 5 2e-11
RLD2 DRAIN 5 0.0502654824574367
RLD1 5 4 2e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 5e-10
RLS2 SOURCE 8 1.25663706143592
RLS1 8 7 0.00018

RDS 7 4 8000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00774846822512962 TC=0.00566982528727821,1.6641661960748E-05
RBD 9 4 0.00101529565442386 TC=0.00566982528727821,1.6641661960748E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 2.17e-09
RG 1 2 1.98023376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -12	2237.1
+ -10	2234.45
+ -8	2230.43
+ -6	2222.58
+ -5	2211.61
+ -4	2170.06
+ -3	2213.41
+ -2	1872.61
+ -1	1447.58
+ -0.5	1072.39
+ -0.2	774.518
+ -0.1	767.093
+ 0	618.84022
+ 0.1	496.67236
+ 0.2	496.21348
+ 0.5	427.12804
+ 1	357.96484
+ 2	267.64888
+ 3	236.18804
+ 4	219.985
+ 5	209.08872
+ 6	200.95172
+ 8	189.06312
+ 10	180.2002
+ 12	173.0046
+ 15	164.29204
+ 16	161.6782
+ 20	153.33256
+ 25	145.25592
+ 30	139.15108
+ 50	125.7016



.MODEL MINT NMOS(Vto=3.47693737995642 Kp=1.299687e+002 Nfs=540000000000 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=88 Ibv=2.500000E-004 Rs=1E-6 Is=6.60703620809946e-13
+ N=1 M=0.61 VJ=0.57 Fc=0.5 Cjo=9.9506536e-10 Tt=1.9224e-08)

.ENDS

